US07754925B2
In a reactor battery consisting of a tubular reactor with liquid circuit and a postreactor, cyclododeca-4,8-dien-1-one was hydrogenated continuously (30 bar, temperatures 130°, each reactor in trickle mode, catalyst 0.2% Pd on alumina), which also comprised approx. 0.5% polyunsaturated C12-aldehydes. The entire amount of hydrogen (2.1 molar equivalents based on reactant, i.e. 5 mol % hydrogen excess) was introduced into the main reactor and transferred together with the product stream into the postreactor. Downstream of the postreactor, the residual gas was discharged as offgas. At a total catalyst hourly space velocity of 0.5 kg of dienone/liter of catalyst×h, the conversion was 99.8%, i.e. the reaction effluent still contained 0.2% of unconverted olefin. In a subsequent distillation, it was possible to obtain cyclododecanone in a purity of 99.4%; 0.2% of unsaturated cyclododecanone was undesired secondary constituent.

reactant | cyclododeca-4,8-dien-1-one | C1(CCC=CCCC=CCCC1)=O | C12H18O
reactant | hydrogen | 2.1 molar | [H][H] | H2
catalyst | Pd on alumina | [Pd] | Pd
product | cyclododecanone | C1(CCCCCCCCCCC1)=O | C12H22O
